Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ciprofloxacin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Dr. ___ is a ___ man with history of aortic stenosis, 
CKD (baseline Cr 3.5-4), multiple myeloma on chemotherapy, PE on 
warfarin who presented to ___ with abdominal pain, found to 
have gallstone pancreatitis and transferred here for further 
management.

The patient states that he was in his usual state of health 
until the day prior to admission. He and his wife were preparing 
to travel to ___ for the ___. However, after 
dinner he developed acute onset of severe epigastric pain 
radiating to his back. The pain came in "rushes." He had a bowel 
movement, but this did not relieve his pain. He denies any 
nausea, vomiting, constipation, diarrhea, fevers, chills, chest 
pain, palpitations, or shortness of breath. Given his ongoing 
severe pain, he took ___ to ___.

At ___, he was afebrile and mildly tachycardic to 111. 
Labs notable for WBC 12.5, Hb 8.4, INR 2.1, BUN/Cr 56/3.6, AST 
14, ALT 12, AP 109, Tb 0.2, lipase 649. Imaging notable for 
RUQUS and CT A/P that demonstrated acute pancreatitis. The 
patient was given morphine, Zofran, 2L NS, and transferred here 
for further management.

Here, the patient was afebrile and hemodynamically stable. 
Repeat labs notable for BUN/Cr 51/3.5, lipase 482, LFTs 
otherwise wnl; trop 0.07x2. RUQUS obtained that confirmed 
cholelithiasis without evidence of cholecystitis. The patient 
was not given any medications in the ED.

On arrival to the floor, the patient reports that he feels well. 
His abdominal pain has resolved after the morphine he received 
at ___-N. He denies any other complaints at this time.

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
- MM, followed at ___
- CKD Stage IV, baseline Cr ___
- Aortic stenosis
- Provoked PE on warfarin
- S/p left TKR
- S/p spinal stenosis s/p laminectomy
 
Social History:
___
Family History:
Mother with multiple myeloma.
 
Physical Exam:
Admission exam
VITALS: 98.3 112/54 101 22 94 3 L NC 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate, dry
mucous membranes
CV: Heart regular, III/VI systolic murmur at ___
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

Discharge exam
VS: 98.6 119 / 74 88 16 95 RA    ___ ambulatory O2 on RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: MMM grossly nl OP
CV: Heart regular, III/VI systolic murmur at ___
RESP: CTAB no w/r/r
GI: soft, NT/ND, NABS no r/g
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect
 
Pertinent Results:
Admission labs
___ 04:30PM BLOOD Glucose-119* UreaN-51* Creat-3.5* Na-143 
K-4.2 Cl-109* HCO3-20* AnGap-14
___ 04:30PM BLOOD ALT-12 AST-14 AlkPhos-116 TotBili-0.2
___ 04:30PM BLOOD cTropnT-0.07*
___ 07:35PM BLOOD cTropnT-0.07*

IMAGING RESULTS:
CXR ___ FINDINGS: There are small bilateral pleural 
effusions, with overlying atelectasis. Enlargement of the 
cardiomediastinal silhouette is similar to prior.  Nopulmonary 
edema is seen.
 
- Abdominal Ultrasound (___): Cholelithiasis with gallbladder 
distention and trace adjacent free fluid in ___'s pouch. 
Although there is no gallbladder wall thickening, the findings 
could be compatible with acute cholecystitis in the proper 
clinical setting. No intrahepatic or extrahepatic duct dilation. 
The common bile duct was obscured distally, but no detectable 
calculus within the visualized portions. Echogenic liver 
consistent with steatosis. Other forms of liver disease and more 
advanced liver disease including steatohepatitis or significant 
hepatic fibrosis/cirrhosis cannot be excluded on this study. 
Multiple right renal cysts. 3.0 cm calcified exophytic mass from 
the upper pole of the right kidney, characterized as fat 
containing lesion/probable angiomyolipoma on prior MRI's, likely 
stable.

- Abdomen/Pelvis CT Scan (___): 1. Acute pancreatitis. No 
drainable collection. Cannot assess for pancreatic necrosis 
without IV contrast. Multiple pancreatic calcifications is 
likely sequela of chronic pancreatitis. Mild free fluid. 2. 
Hepatic steatosis. 2.3 cm probable cyst in the right upper lobe. 
No intrahepatic or extrahepatic ductal biliary dilation. 3. 
Cholelithiasis. Adjacent free fluid posterior to the gallbladder 
which may be from neighboring acute pancreatitis, although acute 
cholecystitis cannot be excluded. 4. Multiple renal cysts 
including stable exophytic calcified mass from the upper pole of 
the right kidney. 5. Prominent prostatomegaly with 2 cm 
left-sided soft tissue nodule exophytic from the prostate versus 
left seminal vesicle. 6. New small nodules in the right lung 
base, partially seen, measuring up to at least 6 mm. 7. A 2.5 x 
2.1 cm lucent lesion is seen in in T11 with evidence of a 
pathological fracture through the lesion causing
minimal vertebral compression.

- MRCP (___): 1. Edema throughout the pancreas with moderate 
surrounding fat stranding, compatible with acute interstitial 
pancreatitis. No main pancreatic ductal dilatation. 2.3 cm 
intraparenchymal fluid collection within the pancreatic body. 
Necrosis cannot be adequately assessed on a noncontrast 
examination. 2. Additional T2 hyperintense lesions throughout 
the pancreas measuring up to 1.2 cm in the pancreatic head, 
likely side branch IPMNs, although comparison to prior 
examinations is challenging given the background pancreatitis. 
3. Cholelithiasis without evidence of acute cholecystitis or 
choledocholithiasis. No biliary dilatation. 4. Mild hepatic 
steatosis. 5. Trace bilateral pleural effusions and ascites 
throughout the upper abdomen. 

MICRO
UCx **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL.

Blood culture ___ - NGTD

DISCHARGE LABS
___ 06:00AM BLOOD WBC-11.5* RBC-2.79* Hgb-7.9* Hct-26.7* 
MCV-96 MCH-28.3 MCHC-29.6* RDW-17.8* RDWSD-62.7* Plt ___
___ 06:00AM BLOOD Glucose-108* UreaN-50* Creat-3.7* Na-141 
K-3.9 Cl-104 HCO3-22 AnGap-15
___ 06:00AM BLOOD ALT-10 AST-12 AlkPhos-104 TotBili-0.2
___ 06:00AM BLOOD Calcium-9.8 Phos-3.6 Mg-1.8
___ 04:36PM BLOOD Lactate-0.___r. ___ is a ___ man with history of aortic stenosis, 
CKD (baseline Cr 3.5-4), multiple myeloma on chemotherapy, PE on 
warfarin who presented to ___-N with
abdominal pain, found to have gallstone pancreatitis and 
transferred to ___ for further management.

# Acute gallstone pancreatitis: Patient presented with severe 
epigastric pain, found on outside imaging to have evidence of 
cholelithiasis and acute pancreatitis. No evidence of 
cholecystitis, cholangitis, or obstruction. Patient was kept 
NPO, given IV fluids and analgesics.  Patient had MRCP without 
evidence of biliary obstruction (no choledocholithiasis), but 
notable for persistent gallstone. ___ surgery and ERCP 
were consulted but patient declined to have  any immediate 
operative intervention this hospitalization, preferring to 
schedule this in the future (acknowledging that this decision 
placed him at risk for future gallstone transition events until 
that time). By day of discharge, patients pain had resolved, he 
was tolerating a regular diet without pain symptoms, passing 
gas, and was without signs of infection. He was discharged to 
follow-up with his PCP and establish surgical care in the 
outpatient setting. 

# Acute hypoxic respiratory failure (resolved): Patient 
presented initally with ___ O2 requirement, possibly in th 
setting of pancreatitis. Imaging notable for ___ spacing 
(pleural effusions and ascites, likely secondary to pancreatitis 
and resuscitation). This improved without intervention and he 
was weaned to room air. Ambulatory O2 sat was normal. However, 
given his borderline oxygenation he was advised against air 
travel until cleared by another physician in the outpatient 
setting. 

# Troponinemia: Patient with mildly elevated troponins in 
setting of acute illness and CKD, suspect demand ischemia. EKG 
with lateral STD that are likely due to repolarization. Patient 
was chest pain free.

# History of pulmonary embolism: Patient reports that he was 
diagnosed ___ years ago, provoked in setting of long-distance 
flight. He reports that his doctor recommends that all people 
with PE receive lifelong anticoagulation. INR 2.1 at BID-N on 
day of admission. Warfarin was held initially in case of 
procedures or surgery. He was told to hold warfarin on ___ for 
supratherapeutic INR and then to restart on ___. 

# Hypertension: home medications held initially for 
normotension, later resumed
# CKD: Baseline Cr reported to be 3.5-4, currently at baseline. 
Continued home sodium bicarb, calcitriol and sevelamer. 
# Anemia: Likely chronic secondary to CKD. Remained stable
# Multiple Myeloma: Followed at ___. Continued prophylactic 
acyclovir, allopurinol
# Aortic stenosis: Followed by BWH. Asymptomatic, severe (last 
valve area 0.7 cm2). Per wife and patient, ___ considered but 
not recommended given comorbidities

TRANSITIONAL ISSUES
[ ] Patient should be referred to hepatobiliary surgery to eval 
for cholecystectomy given persistent gall stones seen on MRCP 
while hospitalized. Patient did not want to pursue surgery while 
hospitalized. Consider cardiac evaluation given his severe 
aortic stenosis. 
[ ] The following incidental findings were seen on imaging
   - A 1 cm side-chain IPMN 
   - A 2x2 cm lesion at at T11 with evidence of a pathological 
fracture causing minimal vertebral compression. Possible 
secondary to myeloma. 
   - Pancreatic cyst, likely secondary to acute pancreatitis 
   - A 3cm cyst on the right kidney that is thought to represent 
an angiomyolipoma (correlated to previous MRIs)
   - Hepatic steatosis 
   - A 2.3cm hepatic cyst
   - Prostatomegally
   - Small (6mm) lung nodules
[ ] consider re-visiting need for life-long anticoagulation 
given hx of only a single provoked PE
[ ] Note that imaging noted hepatic steatosis and ascites. 
Although this can be explained by pancreatitis, the possibility 
of more advanced liver disease and cirrhosis should be 
considered after discharge. 

Time spent coordinating discharge > 30 minutes. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pomalyst (pomalidomide) 2 mg oral DAILY 
2. Sodium Bicarbonate ___ mg PO TID 
3. Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB 
4. Acyclovir 400 mg PO Q12H 
5. Warfarin 1 mg PO 1X/WEEK (MO) 
6. Warfarin 0.5 mg PO 6X/WEEK (___) 
7. sevelamer CARBONATE 800 mg PO TID W/MEALS 
8. Allopurinol ___ mg PO DAILY 
9. Calcitriol 0.5 mcg PO DAILY 
10. Vitamin D 1000 UNIT PO BID 
11. Cyanocobalamin 1000 mcg PO DAILY 
12. Finasteride 5 mg PO DAILY 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
If ___ need to take this med please call ___ or go to the 
nearest ED 
RX *oxycodone 5 mg 1 tablet(s) by mouth DAILY PRN Disp #*2 
Tablet Refills:*0 
2.  Senna 8.6 mg PO BID:PRN Constipation - Second Line 
RX *sennosides 8.6 mg 1 tablet(s) by mouth twice a day Disp #*6 
Tablet Refills:*0 
3.  Acyclovir 400 mg PO Q12H  
4.  Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB  
5.  Allopurinol ___ mg PO DAILY  
6.  Calcitriol 0.5 mcg PO DAILY  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  Finasteride 5 mg PO DAILY  
9.  Pomalyst (pomalidomide) 2 mg oral DAILY  
10.  sevelamer CARBONATE 800 mg PO TID W/MEALS  
11.  Sodium Bicarbonate ___ mg PO TID  
12.  Vitamin D 1000 UNIT PO BID  
13.  Warfarin 1 mg PO 2X/WEEK (MO,FR)  
14.  Warfarin 0.5 mg PO 5X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gallstone pancreatitis
Multiple Myeloma
CKD
Hx of PE
Aortic stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Dr. ___, 

___ were admitted for abdominal pain related to gallstones and 
pancreatitis. ___ had an MRCP which did not show and biliary 
obstruction but did show a persistent gallstone in your gall 
bladder. Although ___ are at risk for having recurrent abdominal 
pain and pancreatitis episodes caused by these residual 
gallstones ___ were not interested in pursuing surgery at this 
time. ___ should speak to your PCP about referring ___ to a 
surgeon to be evaluated for surgery in the future. 

___ oxygen levels were low while hospitalized, which was likely 
due to the fluids ___ received as part of your pancreatitis 
treatment. Although ___ levels have improved, we recommended 
against air travel at this time. 

Please note that we saw some abnormalities on your xrays and 
imaging that was done in the hospital. These include: 
- A side-chain IPMN (Intraductal Papillary Mucosal Neoplasm) in 
your pancreas
- A cyst in your pancreas
- A 3cm cyst on your right kidney that is thought to represent 
an angiomyolipoma 
- Hepatic steatosis (likely fatty liver changes)
- A 2.3cm cyst in your liver
- An enlarged prostate
- A 2x2 cm lesion in your spine (at T11) with evidence of a 
pathological fracture causing minimal vertebral compression.
- Small (6mm) lung nodules

Please discuss these findings with your PCP, as they should be 
followed after ___ leave the hospital.

MEDICATION CHANGES:
- Per your request, ___ will be provided with two pills of 
oxycodone (a pain medication) to take it your pain returns. If 
___ need to take this medication, please call ___ or go to the 
nearest ED. Do not take for other reasons. Do not mix with 
alcohol and do not drive while on this medication.
- Senna: take twice a day to prevent constipation
- Please DO NOT TAKE your warfarin on ___. ___ may resume 
normal doses on ___. 
- Otherwise, no medication changes were made this 
hospitalization. 

IMAGING RESULTS:
- Abdominal Ultrasound (___): Cholelithiasis with gallbladder 
distention and trace adjacent free fluid in ___'s pouch.  
Although there is no gallbladder wall thickening, the findings 
could be compatible with acute cholecystitis in the proper 
clinical setting. No intrahepatic or extrahepatic duct dilation. 
 The common bile duct was obscured distally, but no detectable 
calculus within the visualized portions. Echogenic liver 
consistent with steatosis. Other forms of liver disease and more 
advanced liver disease including steatohepatitis or significant 
hepatic fibrosis/cirrhosis cannot be excluded on this study. 
Multiple right renal cysts.  3.0 cm calcified exophytic mass 
from the upper pole of the right kidney, characterized as fat 
containing lesion/probable angiomyolipoma on prior MRI's, likely 
stable.

- Abdomen/Pelvis CT Scan (___): 1.  Acute pancreatitis.  No 
drainable collection.  Cannot assess for pancreatic necrosis 
without IV contrast.  Multiple pancreatic calcifications is 
likely sequela of chronic pancreatitis.  Mild free fluid. 2.  
Hepatic steatosis.  2.3 cm probable cyst in the right upper 
lobe.  No intrahepatic or extrahepatic ductal biliary dilation. 
3.  Cholelithiasis.  Adjacent free fluid posterior to the 
gallbladder which may be from neighboring acute pancreatitis, 
although acute cholecystitis cannot be excluded. 4.  Multiple 
renal cysts including stable exophytic calcified mass from the 
upper pole of the right kidney. 5.  Prominent prostatomegaly 
with 2 cm left-sided soft tissue nodule exophytic from the 
prostate versus left seminal vesicle. 6. New small nodules in 
the right lung base, partially seen, measuring up to at least 6 
mm. 7.  A 2.5 x 2.1 cm lucent lesion is seen in in T11 with 
evidence of a pathological fracture through the lesion causing
minimal vertebral compression.

- MRCP (___): 1. Edema throughout the pancreas with moderate 
surrounding fat stranding, compatible with acute interstitial 
pancreatitis. No main pancreatic ductal dilatation. 2.3 cm 
intraparenchymal fluid collection within the pancreatic body. 
Necrosis cannot be adequately assessed on a noncontrast 
examination. 2. Additional T2 hyperintense lesions throughout 
the pancreas measuring up to 1.2 cm in the pancreatic head, 
likely side branch IPMNs, although comparison to prior 
examinations is challenging given the background pancreatitis. 
3. Cholelithiasis without evidence of acute cholecystitis or 
choledocholithiasis. No biliary dilatation. 4. Mild hepatic 
steatosis. 5. Trace bilateral pleural effusions and ascites 
throughout the upper abdomen. 

Please take all medications as prescribed and keep all scheduled 
doctor's appointments. Seek medical attention if ___ develop a 
worsening or recurrence of the same symptoms that originally 
brought ___ to the hospital, experience any of the warning signs 
listed below, or have any other symptoms that concern ___.

It was a pleasure taking care of ___!
Your ___ Care Team

 
Followup Instructions:
___